US07138225B2
(Preparation of Recrystallized Behenic Acid)
Mixed with 120 kg of isopropyl alcohol was 100 kg of behenic acid (trade name Edenor C22-85R), manufacture by Henkel Co., dissolved at 50° C. and filtered employing a 10 μm filter. Thereafter, the temperature was lowered to 30° C., and recrystallization was performed. The cooling rate during recrystallization was controlled to be 3° C./hour. The resulting crystals were subjected to centrifugal filtration, were washed with 100 kg of isopropyl alcohol, and subsequently dried. The resulting crystals then underwent esterification. Subsequently, GC-FID was performed, resulting in a silver behenate proportion of 99 percent and a lignoceric acid proportion of 0.5 percent, and an arachidic acid proportion of 0.5 percent as other products.

reactant | lignoceric acid | C(CCCCCCCCCCCCCCCCCCCCCCC)(=O)O | C24H48O2
reactant | arachidic acid | C(CCCCCCCCCCCCCCCCCCC)(=O)O | C20H40O2
product | Behenic Acid | C(CCCCCCCCCCCCCCCCCCCCC)(=O)O | C22H44O2
